* ISCAS85 benchmark circuit SPICE netlist
* generated by spicegen.pl 1.0 
* by Jingye Xu @ VLSI group, Dept of ECE, UIC

.INCLUDE ../../technology/45nm_HP.pm
.OPTIONS GMIN=1e-015 ABSTOL=1e-13 ACCT

* the voltage souces: 
Vdd vdd gnd DC 1.8

* the input voltage sources
V1 g44 gnd pulse(0 1 0p 200p 200p 1n 2n)
V2 g57 gnd pulse(0 1 0p 200p 200p 1n 2n)
V3 g35 gnd pulse(0 1 0p 200p 200p 1n 2n)
V4 g21 gnd pulse(0 1 0p 200p 200p 1n 2n)
V5 g18 gnd pulse(0 1 0p 200p 200p 1n 2n)
V6 g23 gnd pulse(0 1 0p 200p 200p 1n 2n)
V7 g13 gnd pulse(0 1 0p 200p 200p 1n 2n)
V8 g53 gnd pulse(0 1 0p 200p 200p 1n 2n)
V9 g41 gnd pulse(0 1 0p 200p 200p 1n 2n)
V10 g37 gnd pulse(0 1 0p 200p 200p 1n 2n)
V11 g2 gnd pulse(0 1 0p 200p 200p 1n 2n)
V12 g31 gnd pulse(0 1 0p 200p 200p 1n 2n)
V13 g9 gnd pulse(0 1 0p 200p 200p 1n 2n)
V14 g17 gnd pulse(0 1 0p 200p 200p 1n 2n)
V15 g27 gnd pulse(0 1 0p 200p 200p 1n 2n)
V16 g60 gnd pulse(0 1 0p 200p 200p 1n 2n)
V17 g40 gnd pulse(0 1 0p 200p 200p 1n 2n)
V18 g14 gnd pulse(0 1 0p 200p 200p 1n 2n)
V19 g47 gnd pulse(0 1 0p 200p 200p 1n 2n)
V20 g36 gnd pulse(0 1 0p 200p 200p 1n 2n)
V21 g46 gnd pulse(0 1 0p 200p 200p 1n 2n)
V22 g19 gnd pulse(0 1 0p 200p 200p 1n 2n)
V23 g58 gnd pulse(0 1 0p 200p 200p 1n 2n)
V24 g8 gnd pulse(0 1 0p 200p 200p 1n 2n)
V25 g3 gnd pulse(0 1 0p 200p 200p 1n 2n)
V26 g26 gnd pulse(0 1 0p 200p 200p 1n 2n)
V27 g59 gnd pulse(0 1 0p 200p 200p 1n 2n)
V28 g54 gnd pulse(0 1 0p 200p 200p 1n 2n)
V29 g16 gnd pulse(0 1 0p 200p 200p 1n 2n)
V30 g11 gnd pulse(0 1 0p 200p 200p 1n 2n)
V31 g22 gnd pulse(0 1 0p 200p 200p 1n 2n)
V32 g32 gnd pulse(0 1 0p 200p 200p 1n 2n)
V33 g50 gnd pulse(0 1 0p 200p 200p 1n 2n)
V34 g30 gnd pulse(0 1 0p 200p 200p 1n 2n)
V35 g10 gnd pulse(0 1 0p 200p 200p 1n 2n)
V36 g45 gnd pulse(0 1 0p 200p 200p 1n 2n)
V37 g6 gnd pulse(0 1 0p 200p 200p 1n 2n)
V38 g1 gnd pulse(0 1 0p 200p 200p 1n 2n)
V39 g48 gnd pulse(0 1 0p 200p 200p 1n 2n)
V40 g28 gnd pulse(0 1 0p 200p 200p 1n 2n)
V41 g55 gnd pulse(0 1 0p 200p 200p 1n 2n)
V42 g42 gnd pulse(0 1 0p 200p 200p 1n 2n)
V43 g51 gnd pulse(0 1 0p 200p 200p 1n 2n)
V44 g25 gnd pulse(0 1 0p 200p 200p 1n 2n)
V45 g4 gnd pulse(0 1 0p 200p 200p 1n 2n)
V46 g15 gnd pulse(0 1 0p 200p 200p 1n 2n)
V47 g12 gnd pulse(0 1 0p 200p 200p 1n 2n)
V48 g29 gnd pulse(0 1 0p 200p 200p 1n 2n)
V49 g33 gnd pulse(0 1 0p 200p 200p 1n 2n)
V50 g7 gnd pulse(0 1 0p 200p 200p 1n 2n)
V51 g49 gnd pulse(0 1 0p 200p 200p 1n 2n)
V52 g24 gnd pulse(0 1 0p 200p 200p 1n 2n)
V53 g39 gnd pulse(0 1 0p 200p 200p 1n 2n)
V54 g56 gnd pulse(0 1 0p 200p 200p 1n 2n)
V55 g52 gnd pulse(0 1 0p 200p 200p 1n 2n)
V56 g34 gnd pulse(0 1 0p 200p 200p 1n 2n)
V57 g38 gnd pulse(0 1 0p 200p 200p 1n 2n)
V58 g20 gnd pulse(0 1 0p 200p 200p 1n 2n)
V59 g5 gnd pulse(0 1 0p 200p 200p 1n 2n)
V60 g43 gnd pulse(0 1 0p 200p 200p 1n 2n)

X338 g51 g827 vdd gnd g835 and2
X101 g400 g401 vdd gnd g415 and2
X366 g354 vdd gnd g863 not1
X261 g52 g702 vdd gnd g739 and2
X194 g54 g542 vdd gnd g590 and2
X322 g51 g808 vdd gnd g819 and2
X215 g575 vdd gnd g647 not1
X35 g4 g8 vdd gnd g323 and2
X2 g1 g5 g3 g4 vdd gnd g270 nand4
X96 g382 vdd gnd g410 not1
X70 g303 g304 vdd gnd g360 nand2
X254 g682 vdd gnd g732 not1
X234 g629 g626 vdd gnd g702 and2
X285 g744 g745 vdd gnd g770 nor2
X130 g32 g445 vdd gnd g484 or2
X324 g810 g764 g697 g512 vdd gnd g821 nand4
X369 g395 vdd gnd g866 not1
X144 g29 g451 vdd gnd g498 and2
X159 g436 g47 vdd gnd g513 nand2
X120 g39 g417 vdd gnd g466 and2
X31 g4 g34 vdd gnd g317 and2
X299 g677 g779 vdd gnd g789 nor2
X314 g338 g793 vdd gnd g811 nor2
X189 g538 g41 vdd gnd g575 nand2
X305 g604 g779 vdd gnd g795 nand2
X302 g51 g786 vdd gnd g792 and2
X328 g813 g814 vdd gnd g825 nor2
X202 g554 g45 vdd gnd g613 or2
X170 g501 g502 vdd gnd g528 nor2
X1 g1 g2 g3 g4 vdd gnd g269 nand4
X61 g280 g285 vdd gnd g349 or2
X353 g846 vdd gnd g850 not1
X105 g389 g287 g10 vdd gnd g427 nand3
X377 g838 vdd gnd g874 not1
X229 g616 g511 vdd gnd g689 nor2
X206 g54 g558 vdd gnd g625 and2
X186 g529 g532 vdd gnd g572 and2
X293 g613 g756 vdd gnd g778 nand2
X89 g363 vdd gnd g403 not1
X275 g724 g725 vdd gnd g753 nor2
X163 g309 g487 vdd gnd g521 nor2
X280 g738 g746 g718 vdd gnd g761 nand3
X329 g815 g816 vdd gnd g826 nor2
X269 g620 g698 vdd gnd g747 nand2
X246 g52 g658 vdd gnd g724 and2
X117 g310 g422 vdd gnd g463 and2
X325 g811 g768 g706 g513 vdd gnd g822 nand4
X67 g22 g298 vdd gnd g355 nand2
X341 g830 vdd gnd g838 not1
X223 g600 g509 vdd gnd g671 nor2
X129 g32 g445 vdd gnd g483 nand2
X218 g582 vdd gnd g655 not1
X46 g50 g26 vdd gnd g334 and2
X228 g613 g610 vdd gnd g685 and2
X15 g11 g16 g8 vdd gnd g294 and3
X58 g276 vdd gnd g346 not1
X76 g326 g327 vdd gnd g379 nand2
X374 g646 vdd gnd g871 not1
X113 g432 g406 vdd gnd g451 nand2
X125 g369 g427 vdd gnd g475 or2
X23 g26 g27 vdd gnd g304 or2
X5 g1 g2 g9 g4 vdd gnd g279 nand4
X383 g854 vdd gnd g880 not1
X308 g723 g750 g751 g797 vdd gnd g798 nand4
X271 g594 g672 vdd gnd g749 nand2
X311 g789 g790 vdd gnd g808 nor2
X40 g45 g46 vdd gnd g328 nand2
X82 g348 g14 vdd gnd g396 and2
X289 g693 g761 vdd gnd g774 and2
X259 g53 g690 vdd gnd g737 and2
X318 g658 g802 vdd gnd g815 nor2
X260 g698 vdd gnd g738 not1
X165 g317 g491 vdd gnd g523 nor2
X214 g572 g574 vdd gnd g646 nor2
X79 g270 g343 vdd gnd g388 or2
X155 g436 g43 vdd gnd g509 and2
X42 g47 g48 vdd gnd g330 nand2
X182 g475 g527 vdd gnd g562 nand2
X243 g52 g650 vdd gnd g721 and2
X133 g24 g451 vdd gnd g487 and2
X91 g363 g366 vdd gnd g405 and2
X258 g52 g693 vdd gnd g736 and2
X139 g27 g451 vdd gnd g493 and2
X237 g639 g636 vdd gnd g712 and2
X347 g836 vdd gnd g844 not1
X266 g52 g712 vdd gnd g744 and2
X174 g518 vdd gnd g536 not1
X358 g290 vdd gnd g855 not1
X283 g739 g740 vdd gnd g768 nor2
X365 g353 vdd gnd g862 not1
X268 g629 g707 vdd gnd g746 nand2
X115 g310 g422 vdd gnd g461 and2
X10 g6 g16 g17 vdd gnd g287 and3
X257 g690 vdd gnd g735 not1
X181 g474 g526 vdd gnd g558 nand2
X77 g328 g329 vdd gnd g382 nand2
X34 g4 g8 vdd gnd g322 nor2
X185 g532 vdd gnd g571 not1
X44 g50 g24 vdd gnd g332 and2
X249 g52 g667 vdd gnd g727 and2
X86 g357 vdd gnd g400 not1
X14 g11 g16 g17 vdd gnd g293 and3
X33 g11 g40 vdd gnd g319 nand2
X128 g412 g435 vdd gnd g480 nor2
X73 g310 vdd gnd g369 not1
X30 g9 g34 vdd gnd g316 and2
X248 g663 vdd gnd g726 not1
X166 g318 g493 vdd gnd g524 nor2
X94 g379 vdd gnd g408 not1
X62 g280 g286 vdd gnd g350 or2
X121 g310 g422 vdd gnd g467 and2
X57 g276 vdd gnd g345 not1
X224 g601 vdd gnd g672 not1
X168 g497 g498 vdd gnd g526 nor2
X142 g28 g451 vdd gnd g496 and2
X277 g730 g731 vdd gnd g755 nor2
X136 g462 g463 vdd gnd g490 nor2
X106 g375 g11 g40 g389 vdd gnd g432 nand4
X66 g296 vdd gnd g354 not1
X354 g847 vdd gnd g851 not1
X118 g37 g417 vdd gnd g464 and2
X149 g32 g477 vdd gnd g503 nand2
X368 g388 vdd gnd g865 not1
X90 g366 vdd gnd g404 not1
X236 g636 vdd gnd g707 not1
X335 g720 g824 vdd gnd g832 and2
X233 g626 vdd gnd g698 not1
X376 g837 vdd gnd g873 not1
X290 g702 g765 vdd gnd g775 nor2
X251 g672 vdd gnd g729 not1
X95 g376 g379 vdd gnd g409 and2
X83 g349 vdd gnd g397 not1
X47 g50 g27 vdd gnd g335 and2
X321 g667 g805 vdd gnd g818 and2
X179 g524 g494 vdd gnd g550 nand2
X270 g620 g629 g707 vdd gnd g748 nand3
X286 g685 g756 vdd gnd g771 nor2
X276 g727 g728 vdd gnd g754 nor2
X345 g332 g834 vdd gnd g842 nor2
X197 g54 g546 vdd gnd g600 and2
X153 g436 g41 vdd gnd g507 and2
X22 g26 g27 vdd gnd g303 nand2
X81 g346 vdd gnd g395 not1
X315 g794 vdd gnd g812 not1
X147 g39 g468 vdd gnd g501 and2
X371 g398 vdd gnd g868 not1
X340 g829 vdd gnd g837 not1
X43 g47 g48 vdd gnd g331 or2
X310 g729 g795 vdd gnd g805 nand2
X143 g36 g468 vdd gnd g497 and2
X193 g542 g42 vdd gnd g585 or2
X309 g726 g749 g796 vdd gnd g802 nand3
X380 g848 vdd gnd g877 not1
X242 g647 vdd gnd g720 not1
X78 g330 g331 vdd gnd g385 nand2
X111 g402 g415 vdd gnd g445 nor2
X28 g2 g34 vdd gnd g309 and2
X56 g270 g273 vdd gnd g344 or2
X152 g480 g49 vdd gnd g506 or2
X50 g50 g29 vdd gnd g338 and2
X20 g24 g25 vdd gnd g301 nand2
X294 g778 g732 vdd gnd g779 nand2
X205 g558 g46 vdd gnd g620 or2
X209 g54 g562 vdd gnd g635 and2
X272 g585 g663 vdd gnd g750 nand2
X173 g515 vdd gnd g535 not1
X100 g396 vdd gnd g414 not1
X52 g50 g30 vdd gnd g340 and2
X201 g554 g45 vdd gnd g610 nand2
X265 g712 g58 vdd gnd g743 and2
X245 g655 vdd gnd g723 not1
X138 g464 g465 vdd gnd g492 nor2
X27 g30 g31 vdd gnd g308 or2
X301 g51 g785 vdd gnd g791 and2
X114 g35 g417 vdd gnd g460 and2
X348 g841 g752 g654 vdd gnd g845 nand3
X331 g334 g819 vdd gnd g828 nor2
X122 g433 g1 vdd gnd g468 nand2
X102 g403 g404 vdd gnd g416 and2
X4 g1 g5 g9 vdd gnd g276 and3
X162 g485 g486 vdd gnd g518 nand2
X219 g585 g582 vdd gnd g658 and2
X296 g773 g774 vdd gnd g786 nor2
X364 g351 vdd gnd g861 not1
X355 g849 vdd gnd g852 not1
X320 g667 g805 vdd gnd g817 nor2
X230 g617 vdd gnd g690 not1
X213 g537 g573 vdd gnd g645 nor2
X356 g850 vdd gnd g853 not1
X87 g360 vdd gnd g401 not1
X200 g54 g550 vdd gnd g609 and2
X108 g407 g408 vdd gnd g434 and2
X184 g529 vdd gnd g570 not1
X359 g291 vdd gnd g856 not1
X156 g436 g44 vdd gnd g510 and2
X351 g844 vdd gnd g848 not1
X132 g448 g33 vdd gnd g486 or2
X135 g25 g451 vdd gnd g489 and2
X333 g821 vdd gnd g830 not1
X282 g741 g717 vdd gnd g765 nand2
X63 g293 vdd gnd g351 not1
X291 g702 g765 vdd gnd g776 and2
X167 g495 g496 vdd gnd g525 nor2
X180 g473 g525 vdd gnd g554 nand2
X141 g35 g468 vdd gnd g495 and2
X41 g45 g46 vdd gnd g329 or2
X278 g735 g747 g748 g719 vdd gnd g756 nand4
X103 g319 g389 g10 vdd gnd g417 and3
X239 g639 g58 vdd gnd g717 nand2
X295 g771 g772 vdd gnd g785 nor2
X13 g6 g7 g8 vdd gnd g292 and3
X145 g37 g468 vdd gnd g499 and2
X16 g11 g7 g17 vdd gnd g295 and3
X37 g41 g42 vdd gnd g325 or2
X382 g853 vdd gnd g879 not1
X252 g52 g677 vdd gnd g730 and2
X240 g629 g639 g58 vdd gnd g718 nand3
X312 g335 g791 vdd gnd g809 nor2
X107 g389 g319 g4 vdd gnd g433 nand3
X65 g295 vdd gnd g353 not1
X164 g316 g489 vdd gnd g522 nor2
X60 g280 g284 vdd gnd g348 nor2
X247 g53 g655 vdd gnd g725 and2
X72 g307 g308 vdd gnd g366 nand2
X127 g409 g434 vdd gnd g477 nor2
X49 g55 g56 vdd gnd g337 and2
X264 g712 g58 vdd gnd g742 nor2
X241 g620 g629 g639 g58 vdd gnd g719 nand4
X288 g693 g761 vdd gnd g773 nor2
X279 g733 g734 vdd gnd g760 nor2
X375 g823 vdd gnd g872 not1
X326 g812 vdd gnd g823 not1
X303 g51 g787 vdd gnd g793 and2
X39 g43 g44 vdd gnd g327 or2
X112 g405 g416 vdd gnd g448 nor2
X116 g36 g417 vdd gnd g462 and2
X313 g336 g792 vdd gnd g810 nor2
X304 g788 g770 g716 g514 vdd gnd g794 nand4
X225 g604 g601 vdd gnd g677 and2
X137 g26 g451 vdd gnd g491 and2
X327 g798 g578 vdd gnd g824 nand2
X172 g505 g506 vdd gnd g532 nand2
X93 g376 vdd gnd g407 not1
X344 g413 g833 vdd gnd g841 nor2
X29 g60 vdd gnd g310 not1
X146 g30 g451 vdd gnd g500 and2
X9 g11 g12 g15 vdd gnd g286 nand3
X25 g28 g29 vdd gnd g306 or2
X55 g273 vdd gnd g343 not1
X157 g436 g45 vdd gnd g511 and2
X323 g809 g760 g689 vdd gnd g820 nand3
X284 g742 g743 vdd gnd g769 nor2
X84 g350 vdd gnd g398 not1
X300 g677 g779 vdd gnd g790 and2
X19 g20 g21 vdd gnd g298 or2
X367 g356 vdd gnd g864 not1
X273 g585 g594 g672 vdd gnd g751 nand3
X372 g399 vdd gnd g869 not1
X74 g322 g323 vdd gnd g375 nor2
X349 g842 g753 g662 vdd gnd g846 nand3
X316 g650 g798 vdd gnd g813 nor2
X161 g483 g484 vdd gnd g515 nand2
X190 g538 g41 vdd gnd g578 or2
X51 g55 g57 vdd gnd g339 and2
X160 g436 g48 vdd gnd g514 nand2
X69 g301 g302 vdd gnd g357 nand2
X336 g51 g825 vdd gnd g833 and2
X208 g562 g47 vdd gnd g629 or2
X297 g775 g776 vdd gnd g787 nor2
X154 g436 g42 vdd gnd g508 and2
X332 g820 vdd gnd g829 not1
X210 g566 g48 vdd gnd g636 nand2
X7 g11 g8 g12 g13 vdd gnd g284 nand4
X381 g852 vdd gnd g878 not1
X256 g53 g682 vdd gnd g734 and2
X216 g578 g575 vdd gnd g650 and2
X177 g522 g490 vdd gnd g542 nand2
X204 g558 g46 vdd gnd g617 nand2
X176 g521 g488 vdd gnd g538 nand2
X98 g382 g385 vdd gnd g412 and2
X221 g591 vdd gnd g663 not1
X232 g337 g625 vdd gnd g697 nor2
X196 g546 g43 vdd gnd g594 or2
X26 g30 g31 vdd gnd g307 nand2
X287 g685 g756 vdd gnd g772 and2
X59 g279 vdd gnd g347 not1
X54 g269 vdd gnd g342 not1
X244 g53 g647 vdd gnd g722 and2
X262 g53 g698 vdd gnd g740 and2
X18 g18 g19 vdd gnd g297 and2
X298 g340 g777 vdd gnd g788 nor2
X126 g369 g427 vdd gnd g476 or2
X203 g54 g554 vdd gnd g616 and2
X220 g590 g508 vdd gnd g662 nor2
X379 g840 vdd gnd g876 not1
X362 g342 vdd gnd g859 not1
X68 g23 g298 vdd gnd g356 and2
X110 g414 vdd gnd g436 not1
X53 g55 g59 vdd gnd g341 and2
X92 g347 g352 vdd gnd g406 nand2
X346 g333 g835 vdd gnd g843 nor2
X131 g448 g33 vdd gnd g485 nand2
X337 g51 g826 vdd gnd g834 and2
X255 g52 g685 vdd gnd g733 and2
X17 g11 g7 g8 vdd gnd g296 and3
X134 g460 g461 vdd gnd g488 nor2
X352 g845 vdd gnd g849 not1
X342 g831 vdd gnd g839 not1
X187 g535 g536 vdd gnd g573 and2
X334 g822 vdd gnd g831 not1
X48 g50 g28 vdd gnd g336 and2
X212 g54 g566 vdd gnd g644 and2
X6 g1 g2 g3 g10 vdd gnd g280 nand4
X64 g294 vdd gnd g352 not1
X38 g43 g44 vdd gnd g326 nand2
X109 g410 g411 vdd gnd g435 and2
X192 g542 g42 vdd gnd g582 nand2
X32 g38 g34 vdd gnd g318 and2
X97 g385 vdd gnd g411 not1
X75 g324 g325 vdd gnd g376 nand2
X363 g344 vdd gnd g860 not1
X21 g24 g25 vdd gnd g302 or2
X8 g6 g12 vdd gnd g285 nand2
X80 g345 vdd gnd g389 not1
X3 g6 g7 g8 vdd gnd g273 and3
X292 g51 g769 vdd gnd g777 and2
X198 g550 g44 vdd gnd g601 nand2
X12 g6 g7 g17 vdd gnd g291 and3
X71 g305 g306 vdd gnd g363 nand2
X373 g645 vdd gnd g870 not1
X140 g466 g467 vdd gnd g494 nor2
X253 g53 g672 vdd gnd g731 and2
X360 g292 vdd gnd g857 not1
X148 g31 g451 vdd gnd g502 and2
X274 g721 g722 vdd gnd g752 nor2
X183 g476 g528 vdd gnd g566 nand2
X123 g369 g427 vdd gnd g473 or2
X222 g594 g591 vdd gnd g667 and2
X188 g570 g571 vdd gnd g574 and2
X330 g817 g818 vdd gnd g827 nor2
X24 g28 g29 vdd gnd g305 nand2
X151 g480 g49 vdd gnd g505 nand2
X378 g839 vdd gnd g875 not1
X227 g610 vdd gnd g682 not1
X339 g828 g755 g681 vdd gnd g836 nand3
X267 g53 g707 vdd gnd g745 and2
X85 g355 vdd gnd g399 not1
X370 g397 vdd gnd g867 not1
X281 g736 g737 vdd gnd g764 nor2
X211 g566 g48 vdd gnd g639 or2
X171 g503 g504 vdd gnd g529 nand2
X11 g6 g16 g8 vdd gnd g290 and3
X169 g499 g500 vdd gnd g527 nor2
X191 g54 g538 vdd gnd g581 and2
X350 g843 g754 g671 vdd gnd g847 nand3
X217 g581 g507 vdd gnd g654 nor2
X307 g585 g594 g604 g779 vdd gnd g797 nand4
X150 g32 g477 vdd gnd g504 or2
X317 g650 g798 vdd gnd g814 and2
X88 g357 g360 vdd gnd g402 and2
X250 g53 g663 vdd gnd g728 and2
X235 g339 g635 vdd gnd g706 nor2
X207 g562 g47 vdd gnd g626 nand2
X195 g546 g43 vdd gnd g591 nand2
X343 g832 vdd gnd g840 not1
X124 g369 g427 vdd gnd g474 or2
X357 g851 vdd gnd g854 not1
X178 g523 g492 vdd gnd g546 nand2
X99 g50 g369 vdd gnd g413 and2
X119 g310 g422 vdd gnd g465 and2
X45 g50 g25 vdd gnd g333 and2
X226 g609 g510 vdd gnd g681 nor2
X306 g594 g604 g779 vdd gnd g796 nand3
X238 g341 g644 vdd gnd g716 nor2
X263 g707 vdd gnd g741 not1
X231 g620 g617 vdd gnd g693 and2
X158 g436 g46 vdd gnd g512 nand2
X319 g658 g802 vdd gnd g816 and2
X175 g515 g518 vdd gnd g537 and2
X36 g41 g42 vdd gnd g324 nand2
X104 g389 g4 g287 vdd gnd g422 and3
X199 g550 g44 vdd gnd g604 or2
X361 g297 vdd gnd g858 not1

.subckt and3 a b c vdd vss z
m01 08    a     vdd   vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m02 n1    a     vss   vss nmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m03 vdd   b     08    vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m04 sig6  b     n1    vss nmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m05 08    c     vdd   vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m06 08    c     sig6  vss nmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m07 vdd   08    z     vdd pmos  l=0.12u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
m08 vss   08    z     vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c4  08    vss   1.142f
c5  a     vss   0.539f
c7  b     vss   0.609f
c8  c     vss   0.651f
c3  z     vss   0.745f
.ends
.subckt nand3 a b c vdd vss z
m01 vdd   a     z     vdd pmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m02 vss   a     sig2  vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m03 z     b     vdd   vdd pmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m04 sig2  b     sig3  vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m05 vdd   c     z     vdd pmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m06 sig3  c     z     vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
c5  a     vss   0.491f
c6  b     vss   0.400f
c7  c     vss   0.478f
c1  z     vss   0.850f
.ends
.subckt nor2 a b vdd vss z
m01 vdd   a     01    vdd pmos  l=0.12u  w=1.54u  as=0.4081p   ad=0.4081p   ps=3.61u   pd=3.61u
m02 vss   a     z     vss nmos  l=0.12u  w=0.44u  as=0.1166p   ad=0.1166p   ps=1.41u   pd=1.41u
m03 01    b     z     vdd pmos  l=0.12u  w=1.54u  as=0.4081p   ad=0.4081p   ps=3.61u   pd=3.61u
m04 z     b     vss   vss nmos  l=0.12u  w=0.44u  as=0.1166p   ad=0.1166p   ps=1.41u   pd=1.41u
c4  a     vss   0.341f
c3  b     vss   0.433f
c2  z     vss   0.677f
.ends
.subckt nand4 a b c d vdd vss z
m01 vdd   a     z     vdd pmos  l=0.12u  w=0.935u as=0.247775p ad=0.247775p ps=2.4u    pd=2.4u
m02 vss   a     sig7  vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m03 z     b     vdd   vdd pmos  l=0.12u  w=0.935u as=0.247775p ad=0.247775p ps=2.4u    pd=2.4u
m04 sig7  b     sig3  vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m05 vdd   c     z     vdd pmos  l=0.12u  w=0.935u as=0.247775p ad=0.247775p ps=2.4u    pd=2.4u
m06 sig3  c     sig2  vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m07 z     d     vdd   vdd pmos  l=0.12u  w=0.935u as=0.247775p ad=0.247775p ps=2.4u    pd=2.4u
m08 sig2  d     z     vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
c9  a     vss   0.610f
c8  b     vss   0.677f
c6  c     vss   0.603f
c5  d     vss   0.638f
c1  z     vss   0.948f
.ends
.subckt or2 a b vdd vss z
m01 03    a     vdd   vdd pmos  l=0.12u  w=1.155u as=0.306075p ad=0.306075p ps=2.84u   pd=2.84u
m02 sig1  a     vss   vss nmos  l=0.12u  w=0.33u  as=0.08745p  ad=0.08745p  ps=1.19u   pd=1.19u
m03 sig1  b     03    vdd pmos  l=0.12u  w=1.155u as=0.306075p ad=0.306075p ps=2.84u   pd=2.84u
m04 vss   b     sig1  vss nmos  l=0.12u  w=0.33u  as=0.08745p  ad=0.08745p  ps=1.19u   pd=1.19u
m5  vdd   sig1  z     vdd pmos  l=0.12u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
m6  vss   sig1  z     vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c4  a     vss   0.464f
c5  b     vss   0.507f
c1  sig1  vss   0.619f
c3  z     vss   0.593f
.ends
.subckt nand2 a b vdd vss z
m01 vdd   a     z     vdd pmos  l=0.12u  w=0.77u  as=0.20405p  ad=0.20405p  ps=2.07u   pd=2.07u
m02 vss   a     sig3  vss nmos  l=0.12u  w=0.66u  as=0.1749p   ad=0.1749p   ps=1.85u   pd=1.85u
m03 z     b     vdd   vdd pmos  l=0.12u  w=0.77u  as=0.20405p  ad=0.20405p  ps=2.07u   pd=2.07u
m04 sig3  b     z     vss nmos  l=0.12u  w=0.66u  as=0.1749p   ad=0.1749p   ps=1.85u   pd=1.85u
c4  a     vss   0.549f
c5  b     vss   0.578f
c1  z     vss   0.609f
.ends
.subckt and2 a b vdd vss z
m01 06    a     vdd   vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m02 n1    a     vss   vss nmos  l=0.12u  w=0.605u as=0.160325p ad=0.160325p ps=1.74u   pd=1.74u
m03 vdd   b     06    vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m04 06    b     n1    vss nmos  l=0.12u  w=0.605u as=0.160325p ad=0.160325p ps=1.74u   pd=1.74u
m05 vdd   06    z     vdd pmos  l=0.12u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
m06 vss   06    z     vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c4  06    vss   0.724f
c5  a     vss   0.663f
c6  b     vss   0.538f
c3  z     vss   0.595f
.ends
.subckt not1 a vdd vss z
m01 vdd   a     z     vdd pmos  l=0.12u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
m02 vss   a     z     vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c3  a     vss   0.384f
c2  z     vss   0.576f
.ends


* simulation command: 

.tran 1ps 1ns
.print tran  V(g859) V(g861) V(g865) V(g870) V(g864) V(g866) V(g878) V(g862) V(g860) V(g869) V(g874) V(g863) V(g877) V(g876) V(g857) V(g871) V(g868) V(g856) V(g880) V(g873) V(g872) V(g875) V(g867) V(g858) V(g879) V(g855)
.control
run
rusage all
quit
.endc
.end
